US09422281B2
A mixture of (S)-cyclobutyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.098 g, 0.267 mmol), 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)tetrahydro-2H-thiopyran 1,1-dioxide (0.097 g, 0.296 mmol), XPhos Precatalyst 2nd Generation (0.021 g, 0.027 mmol), cesium carbonate (0.261 g, 0.801 mmol), 1,4-dioxane (1.2 mL) and water (0.2 mL) was heated at 80° C. overnight. The reaction mixture was cooled to room temperature, filtered through a pad of Celite, and concentrated. The residue was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 10-100% ethyl acetate-hexane). The resulting off-white solid was further purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 2-5% methanol-dichloromethane) to afford cyclobutyl (3S)-4-acetyl-7-[1-(1,1-dioxo-1λ6-thian-4-yl)-1H-pyrazol-4-yl]-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate (60 mg, 47%) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.07 (d, J=7.04 Hz, 3 H), 1.61-1.74 (m, 1 H), 1.76-1.91 (m, 1 H), 2.05-2.19 (m, 2 H), 2.21 (s, 3 H), 2.34-2.48 (m, 2 H), 2.52-2.76 (m, 4 H), 3.12 (ddd, J=13.63, 8.79, 4.25 Hz, 2 H), 3.41-3.57 (m, 3 H), 4.07 (dd, J=12.61, 6.45 Hz, 1 H), 4.48 (tt, J=7.66, 3.92 Hz, 1 H), 5.05 (quin, J=7.55 Hz, 1 H), 5.17 (br s, 1 H), 7.09-7.23 (m, 2 H), 7.68 (s, 1 H), 7.77 (s, 1 H), 8.08 (s, 1 H). MS (ESI, pos. ion) m/z 487 [M+H]+.

reactant | (S)-cyclobutyl 4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.267 mmol, 0.098 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CCC1)C | C16H19BrN2O3
reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)tetrahydro-2H-thiopyran 1,1-dioxide | 0.296 mmol, 0.097 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCS(CC1)(=O)=O)C | C14H23BN2O4S
reactant | cesium carbonate | 0.801 mmol, 0.261 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
catalyst | RuPhos Precatalyst | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.CC(C)(C)OC.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | water | 0.2 mL | O | H2O
product | cyclobutyl (3S)-4-acetyl-7-[1-(1,1-dioxo-1λ6-thian-4-yl)-1H-pyrazol-4-yl]-3-methyl-1,2,3,4-tetrahydroquinoxaline-1-carboxylate | 60 mg, 47% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CCS(CC1)(=O)=O)C(=O)OC1CCC1)C | C24H30N4O5S
